US07011917B2
A 4.85 g quantity of 9-fluorenone-4-carbonyl chloride (0.02 mole, obtained from Aldrich Chemicals Co, Milwaukee, Wis. 53201, USA) and 100 ml of tetrahydrofuran (obtained from Aldrich) were added to a 250 ml, 3-neck round bottom flask equipped with a reflux condenser and a mechanical stirrer. The solution was stirred for about ½ hour, and then 1.74 g of 1,10-decanediol (0.01 mole, obtained from Aldrich) in 50 ml of tetrahydrofuran were added, followed by the addition of 2 g of triethylamine (0.02 mole, obtained from Aldrich). The solution was refluxed for 6 hours and filtered hot to remove triethylamine hydrochloride salt by-product, and the filtrate was evaporated to dryness. A liquid product was obtained, which solidified upon standing at room temperature for a couple of hours. The crude product was recrystallized from ethyl acetate with activated charcoal. The product was dried at 60° C. in a vacuum oven for 6 hours to yield a second dimeric fluorenone derivative, which was a yellow solid (2.5 g, 43% yield). The product had a melting point of 101–102° C. A 1H-NMR spectrum (300 MHz) in CDCl3 yielded chemical shifts (ppm) as follows: 1.15–1.61 (m, 12H); 1.71–1.92 (q, 4H); 4.34–4.47 (t, 4H); 7.32–7.37 (m, 4H); 7.50 (td, 2H); 7.70 (d, 2H); 7.82 (dd, 2H); 7.93 (dd, 2H); 8.28 (d, 2H).

reactant | 9-fluorenone-4-carbonyl chloride | 0.02 mole | C1=CC=C(C=2C3=CC=CC=C3C(C12)=O)C(=O)Cl | C14H7ClO2
reactant | 1,10-decanediol | 0.01 mole, 1.74 g | C(CCCCCCCCCO)O | C10H22O2
reactant | triethylamine | 0.02 mole, 2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
